US05756499
e) 1-(1-t-Butoxycarbonyl-4-piperidinyl)-4-(4-fluorophenyl)-5-(2-phenoxy-4-pyridinyl)imidazole
To a stirring suspension of NaH (120 mg, 3.0 mmol) in DMA (1.3 mL) was added phenol (0.40 g, 4.25 mmol). After the bubbling cease, 1-(1-t-butoxycarbonyl-4-piperidinyl)-4-(4-fluorophenyl)-5-(2-chloro-4-pyridinyl)imidazole (0.20 g, 0.44 mmol) was added and the resulting solution was heated at 120° C. until no evidence of starting material was seen by mass spectroscopy (1-3 days). To the cooled solution was added 1M NaOH and the mixture was extracted thrice with EtOAc. The combined organic layers were washed with NaCl (sat.), dried over MgSO4, filtered, and evaporated under reduced pressure to give a light yellow solid. The solid was then chromatographed with 50-80% EtOAc/Hex to give the title compound as a white solid (143 mg, 64% yield). ES (+) MS m/e=515 (MH+)

reactant | NaH | 3.0 mmol, 120 mg | [H-].[Na+]
reactant | phenol | 4.25 mmol, 0.40 g | C1(=CC=CC=C1)O | C6H6O
reactant | 1-(1-t-butoxycarbonyl-4-piperidinyl)-4-(4-fluorophenyl)-5-(2-chloro-4-pyridinyl)imidazole | 0.44 mmol, 0.20 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C=NC(=C1C1=CC(=NC=C1)Cl)C1=CC=C(C=C1)F | C24H26ClFN4O2
reactant | NaOH | 1M | [OH-].[Na+]
solvent | DMA | 1.3 mL | CC(=O)N(C)C | C4H9NO
product | 1-(1-t-Butoxycarbonyl-4-piperidinyl)-4-(4-fluorophenyl)-5-(2-phenoxy-4-pyridinyl)imidazole | 143 mg, 64% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C=NC(=C1C1=CC(=NC=C1)OC1=CC=CC=C1)C1=CC=C(C=C1)F | C30H31FN4O3
